Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an otherwise healthy ___ female who was
transferred from OSH with first time seizure and finding of 
large
cystic right parietal mass. She was driving and pulled over when
she developed left tongue numbness, which progressed to 
witnessed
GTC with +LOC, +incontinence. She was brought to OSH where head
CT showed large right parietal cystic appearing mass. She was
transferred to ___ for further evaluation. Tongue numbness has
resolved. She c/o mild posterior headache, no nausea, vomiting,
diplopia, weakness, numbness,
 
Past Medical History:
None
 
Social History:
___
Family History:
No significant ___
 
Physical Exam:
ON ADMISSION
============
PHYSICAL EXAM:
T: 98.3 BP: 121/84     HR: 84   R: 18       O2Sats: 99% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils:  4->3       EOMs intact
Neck: Supple.
Lungs: non-labored breathing
Cardiac: RRR
Abd: Soft, NT
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3
mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally.

Coordination: normal on finger-nose-finger

ON DISCHARGE
============
PHYSICAL EXAM:
gen: WD/WN, comfortable, NAD.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal 
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension. No dysarthria 
or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3 mm 
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without 
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements, 
tremors. Strength full power ___ throughout. No pronator drift

 
Pertinent Results:
___ 10:36PM BLOOD WBC-14.6* RBC-4.29 Hgb-11.6 Hct-36.2 
MCV-84 MCH-27.0 MCHC-32.0 RDW-14.3 RDWSD-43.5 Plt ___
___ 10:36PM BLOOD Neuts-84.6* Lymphs-10.3* Monos-4.3* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-12.35* AbsLymp-1.50 
AbsMono-0.62 AbsEos-0.00* AbsBaso-0.04
___ 10:36PM BLOOD Glucose-109* UreaN-15 Creat-0.8 Na-139 
K-3.7 Cl-103 HCO3-24 AnGap-16

___ MR HEAD W & W/O CONTRAS
IMPRESSION: 
  
1. Limited postcontrast imaging secondary to motion degradation 
as described. 
2. 7.4 cm right frontal nonenhancing CSF density mass with 
septa, does not 
communicate with adjacent ventricles and is suggested to be 
intra-axial.  
Findings suggestive of glioependymal cyst, with differential 
consideration of porencephalic cyst or extra-axial arachnoid 
cyst less likely. 
3. Mass effect secondary to right frontal mass on right lateral 
ventricle, 
resulting in 0.8 cm right to left midline shift. 
4. Paranasal sinus disease as described. 

___ CT CHEST/ABD/PELVIS W/ 
IMPRESSION:   
1. No evidence of primary or metastatic disease in the abdomen 
pelvis. 
2. IUD in the low location within the uterine body with 
penetration of the 
limbs into the myometrium. 

___ CT CHEST W/O CONTRAST
IMPRESSION:    
Normal chest CT.  No evidence of intrathoracic malignancy. 

 
Brief Hospital Course:
On ___, the patient was transferred to the ED after 
new-onset seizure; CT revealed a right parietal brain lesion.  
On exam, the patient had no neurological deficits.   She was 
admitted to the neurosurgery service for evaluation and 
monitoring.

On ___, the patient remained neurologically and hemodynamically 
stable.  CT chest, abdomen and pelvis were completed and were 
unrevealing for underlying malignancy.  She did not have any 
recurrence of seizure activity.  The patient was discharged home 
with plan for outpatient follow up and potential surgical 
planning.
 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID constipation 
3. LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth twice 
daily Disp #*60 Tablet Refills:*5

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right parietal brain lesion
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Information
• You were admitted to the hospital after experiencing a 
seizure.  Imaging demonstrated a brain lesion. 

Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• As you experienced a seizure while admitted, you are NOT 
allowed to drive by law for 6 months following the seizure.
• It is important to take safety precautions in the event of a 
seizure.  This includes avoiding swimming or bathing alone, or 
climbing ladders or standing in high places from which you could 
fall.
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

 
Followup Instructions:
___